* INA103 = A1_103 + A2_103 + A3_103 OP AMPS + PRECISION RESISTOR NETWORK

* CREATED ON 10/30/90 AT 15:01

* REV.A

*  ------------------------------------------------------------------------ 

* |  NOTICE: THE INFORMATION PROVIDED HEREIN IS BELIEVED TO BE RELIABLE;   |

* |  HOWEVER; BURR-BROWN ASSUMES NO RESPONSIBILITY FOR INACCURACIES OR     |

* |  OMISSIONS.  BURR-BROWN ASSUMES NO RESPONSIBILITY FOR THE USE OF THIS  |

* |  INFORMATION, AND ALL USE OF SUCH INFORMATION SHALL BE ENTIRELY AT     |

* |  THE USER'S OWN RISK.  NO PATENT RIGHTS OR LICENSES TO ANY OF THE      |

* |  CIRCUITS DESCRIBED HEREIN ARE IMPLIED OR GRANTED TO ANY THIRD PARTY.  |

* |  BURR-BROWN DOES NOT AUTHORIZE OR WARRANT ANY BURR-BROWN PRODUCT FOR   |

* |  USE IN LIFE-SUPPORT DEVICES AND/OR SYSTEMS.                           |

*  ------------------------------------------------------------------------ 

*

*

***** INA103 SUB-CIRCUIT

* CONNECTIONS:          NON-INVERTING INPUT

*                       |   INVERTING INPUT

*                       |   |   POSITIVE POWER SUPPLY

*                       |   |   |   NEGATIVE POWER SUPPLY

*                       |   |   |   |   OUTPUT

*                       |   |   |   |   |   REFERENCE

*                       |   |   |   |   |   |   GAIN SENSE 1

*                       |   |   |   |   |   |   |   GAIN SENSE 2

*                       |   |   |   |   |   |   |   |

.SUBCKT INA103          1   2   3   4   5   8   9  10

*

***** A1_103 SUB-CIRCUIT

* CONNECTIONS:          NON-INVERTING INPUT

*                       |   INVERTING INPUT

*                       |   |   POSITIVE POWER SUPPLY

*                       |   |   |   NEGATIVE POWER SUPPLY

*                       |   |   |   |   OUTPUT

*                       |   |   |   |   |

X1                     15  17   3   4  11   A1_103

*

***** A2_103 SUB-CIRCUIT

* CONNECTIONS:          NON-INVERTING INPUT

*                       |   INVERTING INPUT

*                       |   |   POSITIVE POWER SUPPLY

*                       |   |   |   NEGATIVE POWER SUPPLY

*                       |   |   |   |   OUTPUT

*                       |   |   |   |   |

X2                     15  16   3   4  12   A2_103

*

***** A3_103 SUB-CIRCUIT

* CONNECTIONS:          NON-INVERTING INPUT

*                       |   INVERTING INPUT

*                       |   |   POSITIVE POWER SUPPLY

*                       |   |   |   NEGATIVE POWER SUPPLY

*                       |   |   |   |   OUTPUT

*                       |   |   |   |   |

X3                     14  13   3   4   5   A3_103

*

R1    11  13   6.0000K

R2    13   5   5.9994K

C2    13   5   2.0000PF

R3    12  14   6.0000K

R4    14   8   6.0000K

*

R1FB   9  11   3.0000K

CC1   17  11  35.0000PF

R2FB  10  12   3.0000K

CC2   16  12  35.0000PF

*

RCE   17   9   75MEG

*

I1     3  16  DC  1.300E-3

I2     3  17  DC  1.300E-3

I3    10   4  DC  1.300E-3

I4     9   4  DC  1.300E-3

*

D1    17  15      DX

D2    16  15      DX

*

Q1    16   1  10  QX

Q2    17   2   9  QX

*

V1     3  15  DC  2.000

*

.MODEL DX D(IS=1.0E-24)

.MODEL QX NPN(IS=800.0E-18 BF=500)

.ENDS

* A1_103 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT

* CREATED USING PARTS RELEASE 4.03 ON 11/15/90 AT 13:24

*

* CONNECTIONS:   NON-INVERTING INPUT

*                | INVERTING INPUT

*                | | POSITIVE POWER SUPPLY

*                | | | NEGATIVE POWER SUPPLY

*                | | | | OUTPUT

*                | | | | |

.SUBCKT A1_103   1 2 3 4 5

*

C1   11 12 2.098E-12

C2    6  7 5.000E-12

DC    5 53 DX

DE   54  5 DX

DLP  90 91 DX

DLN  92 90 DX

DP    4  3 DX

EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5

FB    7 99 POLY(5) VB VC VE VLP VLN 0 2.653E6 -3E6 3E6 3E6 -3E6

GA    6  0 11 12 188.5E-6

GCM   0  6 10 99 2.987E-9

ISS   3 10 DC 100.0E-6

HLIM 90  0 VLIM 1K

J1   11  2 10 JX

J2   12  1 10 JX

R2    6  9 100.0E3

RD1   4 11 5.305E3

RD2   4 12 5.305E3

RO1   8  5 20

RO2   7 99 20

RP    3  4 14.06E3

RSS  10 99 2.000E6

VB    9  0 DC 0

VC    3 53 DC 3

VE   54  4 DC 3

VLIM  7  8 DC 0

VLP  91  0 DC 50

VLN   0 92 DC 50

.MODEL DX D(IS=800.0E-18)

.MODEL JX PJF(IS=2.500E-12 BETA=177.7E-6 VTO=-1)

.ENDS

* A2_103 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT

* CREATED USING PARTS RELEASE 4.03 ON 11/13/90 AT 11:47

*

* CONNECTIONS:   NON-INVERTING INPUT

*                | INVERTING INPUT

*                | | POSITIVE POWER SUPPLY

*                | | | NEGATIVE POWER SUPPLY

*                | | | | OUTPUT

*                | | | | |

.SUBCKT A2_103   1 2 3 4 5

*

C1   11 12 2.098E-12

C2    6  7 5.000E-12

DC    5 53 DX

DE   54  5 DX

DLP  90 91 DX

DLN  92 90 DX

DP    4  3 DX

EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5

FB    7 99 POLY(5) VB VC VE VLP VLN 0 2.653E6 -3E6 3E6 3E6 -3E6

GA    6  0 11 12 188.5E-6

GCM   0  6 10 99 2.987E-9

ISS   3 10 DC 100.0E-6

HLIM 90  0 VLIM 1K

J1   11  2 10 JX

J2   12  1 10 JX

R2    6  9 100.0E3

RD1   4 11 5.305E3

RD2   4 12 5.305E3

RO1   8  5 20

RO2   7 99 20

RP    3  4 14.06E3

RSS  10 99 2.000E6

VB    9  0 DC 0

VC    3 53 DC 3

VE   54  4 DC 3

VLIM  7  8 DC 0

VLP  91  0 DC 50

VLN   0 92 DC 50

.MODEL DX D(IS=800.0E-18)

.MODEL JX PJF(IS=2.500E-12 BETA=177.7E-6 VTO=-1)

.ENDS

* A3_103 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT

* CREATED USING PARTS RELEASE 4.03 ON 11/09/90 AT 10:20

*

* CONNECTIONS:   NON-INVERTING INPUT

*                | INVERTING INPUT

*                | | POSITIVE POWER SUPPLY

*                | | | NEGATIVE POWER SUPPLY

*                | | | | OUTPUT

*                | | | | |

.SUBCKT A3_103   1 2 3 4 5

*

C1   11 12 3.356E-12

C2    6  7 8.000E-12

DC    5 53 DX

DE   54  5 DX

DLP  90 91 DX

DLN  92 90 DX

DP    4  3 DX

EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5

FB    7 99 POLY(5) VB VC VE VLP VLN 0 16.62E6 -20E6 20E6 20E6 -20E6

GA    6  0 11 12 301.6E-6

GCM   0  6 10 99 4.780E-9

ISS   3 10 DC 160.0E-6

HLIM 90  0 VLIM 1K

J1   11  2 10 JX

J2   12  1 10 JX

R2    6  9 100.0E3

RD1   4 11 3.316E3

RD2   4 12 3.316E3

RO1   8  5 10

RO2   7 99 10

RP    3  4 14.06E3

RSS  10 99 1.250E6

VB    9  0 DC 0

VC    3 53 DC 3

VE   54  4 DC 3

VLIM  7  8 DC 0

VLP  91  0 DC 70

VLN   0 92 DC 70

.MODEL DX D(IS=800.0E-18)

.MODEL JX PJF(IS=2.500E-12 BETA=284.3E-6 VTO=-1)

.ENDS
